US07265108B2
3-[1-[4-[2-(2-Fluorophenyl)acetyl]piperidino]ethyl]-1H-pyrazin-2-one
After dissolving 118 mg of 1-[1-[1-(3-methoxy-2-pyrazinyl)ethyl]piperidin-4-yl]-2-(2-fluorophenyl)ethanone in 2 ml of ethanol, 6 ml of 4N hydrogen chloride/ethyl acetate was added and the mixture was heated to reflux for 9 hours. Saturated aqueous sodium bicarbonate solution was added to the reaction solution and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: ethyl acetate/methanol), diethyl ether was added and the precipitate was filtered out to obtain the title compound (61 mg, 38% yield).

reactant | 1-[1-[1-(3-methoxy-2-pyrazinyl)ethyl]piperidin-4-yl]-2-(2-fluorophenyl)ethanone | 118 mg | COC=1C(=NC=CN1)C(C)N1CCC(CC1)C(CC1=C(C=CC=C1)F)=O | C20H24FN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | hydrogen chloride ethyl acetate | 4N, 6 ml | Cl.C(C)(=O)OCC
product | 3-[1-[4-[2-(2-Fluorophenyl)acetyl]piperidino]ethyl]-1H-pyrazin-2-one | 61 mg, 38% yield | FC1=C(C=CC=C1)CC(=O)C1CCN(CC1)C(C)C=1C(NC=CN1)=O | C19H22FN3O2
